Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right foot infection 
 
Major Surgical or Invasive Procedure:
bedside debridement of second toe ulcer 
 
History of Present Illness:
HPI: This is a ___ male with diabetes who presented to the
emergency department with a right second toe ulcer with concern
for infection.  The patient believed that he developed the ulcer
from a blister that ruptured approximately 3 weeks ago.  He was 
admitted to the Podiatry service for iv antibiotics and wound 
care as well as evaluation for presence of osteomyelitis. 
Patient has been on vancomycin, ciprofloxacin, and flagyl for 
past 3 days. He has been receiving betadine dressing changes. 
His ___ toe right foot was debrided at bedside today of all 
non-viable tissue. The infection in his right second toe appears 
to have responded well to antibiotic therapy as well as 
debridement. There is no concern for osteomyelitis after 
reviewing radiographic findings of right foot. Patient is ready 
for discharge on an oral antibiotic regimen. Patient experienced 
no other foot related issues during this admission. 
 
Past Medical History:
Past Medical/Surgical History: Diabetes mellitus type 2,
hypertension, high cholesterol

Medications:
Lisinopril 10 mg daily
Simvastatin 20 mg nightly
Metformin 1000 mg 3 times daily
Glyburide 5 mg, take 2 tabs p.o. every morning
Humulin 30 units before bed

Allergies: NKDA

Social History: ___
Family History: Noncontributory
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
Physical Exam:
General: Well appearing male in no acute distress.
HEENT: NC/AT
CV: normal RRR
PULM: CTAB, breathing comfortably on room air 
ABD: soft non tender
Lower extremity focused exam: ___ pulses palpable b/l. Cft <3
seconds to the digits b/l. Bilateral lower extremity
nonpitting edema noted, right worse than left.  Slight erythema
localized to the right second toe.  Full-thickness ulceration
noted to the distal aspect of the right second toe measuring
approximately 1 cm in diameter.  Granular base. The ulcer does 
not probe to bone.  There is no associated malodor.  Mild 
tenderness to palpation of the right second toe.  Protective 
sensation diminished b/l.  Left foot without
any ulcerations or suspicious lesions noted

Discharge Physical Exam:
General: Well appearing male in no acute distress.
HEENT: NC/AT
CV: normal RRR
PULM: CTAB, breathing comfortably on room air 
ABD: soft non tender
Lower extremity focused exam: ___ pulses palpable b/l. Cft <3
seconds to the digits b/l. Clean dry surgical dressing in place.

 
Pertinent Results:
___ 11:54PM   LACTATE-1.2 K+-4.8
___ 11:17PM   GLUCOSE-111* UREA N-21* CREAT-0.8 SODIUM-142 
POTASSIUM-5.2* CHLORIDE-101 TOTAL CO2-23 ANION GAP-18*
___ 11:17PM   estGFR-Using this
___ 11:17PM   WBC-9.6 RBC-4.63 HGB-13.6* HCT-42.7 MCV-92 
MCH-29.4 MCHC-31.9* RDW-14.1 RDWSD-47.5*
___ 11:17PM   NEUTS-52.0 ___ MONOS-9.0 EOS-3.9 
BASOS-0.7 IM ___ AbsNeut-4.99 AbsLymp-3.26 AbsMono-0.86* 
AbsEos-0.37 AbsBaso-0.07
___ 11:17PM   PLT COUNT-244

___ 07:22AM BLOOD WBC-6.9 RBC-4.83 Hgb-13.9 Hct-44.0 MCV-91 
MCH-28.8 MCHC-31.6* RDW-13.8 RDWSD-46.6* Plt ___
___ 07:22AM BLOOD Plt ___
___ 07:22AM BLOOD Glucose-126* UreaN-11 Creat-0.7 Na-143 
K-4.6 Cl-106 HCO3-19* AnGap-18*
___ 07:22AM BLOOD Calcium-8.8 Phos-3.9 Mg-2.0
 
Brief Hospital Course:
The patient was admitted to the podiatric surgery service from 
the ED on ___ for a R foot infection. On admission, he was  
started on broad spectrum antibiotics then 
transferred to the ward for observation. 

The patient remained afebrile with stable vital signs; pain was 
well controlled oral pain medication on a PRN basis.  The 
patient remained stable from both a cardiovascular and pulmonary 
standpoint. He was placed on vancomycin, ciprofloxacin, and 
flagyl while hospitalized and discharged with oral antibiotics. 
His intake and output were closely monitored and noted to be 
adequate. The patient received 
subcutaneous heparin throughout admission; early and frequent 
ambulation were strongly encouraged.

The patient was subsequently discharged to home on POD 4 with 
PO abx and close follow up.  The patient received discharge 
teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
Lisinopril 
Simvastatin 
Metformin 
Glyburide 
Humulin 
 
Discharge Medications:
Lisinopril 
Simvastatin 
Metformin 
Glyburide 
Humulin 
Clindamycin
Ciprofloxacin 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right foot soft tissue infection
 
Discharge Condition:
Good
 
Discharge Instructions:
It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service for concern of right foot 
infection. You were given IV antibiotics while here. You are 
being discharged home with the following instructions: 
There are restrictions on activity. Please remain protected 
weight bearing in surgical shoe to right foot.

No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the ulceration. If you experience any of these 
CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

DRESSING:
Keep dressings clean and dry. Replace dressing daily with 
betadine and gauze bandage.

DIET:
There are no special restrictions 

 
Followup Instructions:
___